US06844425B1
N-BOC-diethylentriamine (4)
A solution of 500 mg (2.29 mmol) of di-tert-butyl dicarbonate ((BOC)2O) in 30 ml dioxan was slowly added to a solution of 1.49 ml (1.42 g) (13.74 mmol) of diethylentriamine in 80 ml of dioxan at 10° C. The mixture was then stirred for 15 hours at room temperature. The desired product precipitated as an oil, which was then separated from the rest of the solution, dissolved in water, filtered, and extracted with dichloromethane to finally give the desired product as a light yellow oil. Yield: 260 mg (56%).

reactant | di-tert-butyl dicarbonate | 2.29 mmol, 500 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | diethylentriamine | 13.74 mmol, 1.49 ml, 1.42 g | NCCNCCN | C4H13N3
solvent | dioxan | 30 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 80 ml | O1CCOCC1 | C4H8O2
product | N-BOC-diethylentriamine | C(=O)(OC(C)(C)C)NCCNCCN | C9H21N3O2
